US03953430
Preparation of 9-(3-Dimethylamino-2-methylpropyl)-4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one, hydrochloride
A mixture of 0.47 g. of 55% sodium hydride-mineral oil dispersion and 0.91 g. of 3-dimethylamino-2-methylpropylchloride hydrochloride in 35 ml. of dry dimethylformamide is stirred at room temperature for 0.5 hours. To the mixture is added 0.6 g. of 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one and stirring is continued for 18 hours. The reaction mixture is cooled, quenched with water and extracted with chloroform. The dried chloroform extracts are concentrated to an oil, which is chromatographed on silica gel preparative thin layer chromatographic (tlc) plates with 10:1 benzene:methanol to give an oil. An ethanolic solution of the oil is treated with anhydrous hydrogen chloride and diluted with ether to give a white solid, m.p. 231°-233°C. (dec.).

reactant | sodium hydride | [H-].[Na+]
reactant | 3-dimethylamino-2-methylpropylchloride hydrochloride | Cl.CN(CC(CCl)C)C
reactant | 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C12H10N2OS
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-(3-Dimethylamino-2-methylpropyl)-4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one, hydrochloride | Cl.CN(CC(CN1C(C=2C(N(C3=C1C=CC=C3)C)=CSC2)=O)C)C | InChI=1S/C18H23N3OS.ClH/c1-13(9-19(2)3)10-21-16-8-6-5-7-15(16)20(4)17-12-23-11-14(17)18(21)22;/h5-8,11-13H,9-10H2,1-4H3;1H
